US06528525B1
(d) Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-methyl-2-phenoxypropionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-methyl-2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (1.60 g), which is the product of Reference example 8(c), and p-toluenesulfonic acid monohydrate (0.70 g) and the reaction mixture was treated to afford the desired compound (1.10 g) as a syrup.

reactant | ethyl 2-methyl-2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.60 g | CC(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)OC1=CC=CC=C1 | C25H32O6
reactant | p-toluenesulfonic acid monohydrate | 0.70 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-methyl-2-phenoxypropionate | 1.10 g | OCCOC1=CC=C(C=C1)CC(C(=O)OCC)(OC1=CC=CC=C1)C | C20H24O5
